US05175157
2-[(N-((2-Methyl-naphth-1-yl)-methyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride
Prepared from 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline and 1-chloromethyl-2-methyl-naphthalene analogously to Example 1.

reactant | 2-[(piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline | N1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | C17H24N2O3
reactant | 1-chloromethyl-2-methyl-naphthalene | ClCC1=C(C=CC2=CC=CC=C12)C | C12H11Cl
product | 2-[(N-((2-Methyl-naphth-1-yl)-methyl)-piperidin-3-yl)-methyl]-6,7-dimethoxy-1-oxo-1,2,3,4-tetrahydro-isoquinoline-hydrochloride | Cl.CC1=C(C2=CC=CC=C2C=C1)CN1CC(CCC1)CN1C(C2=CC(=C(C=C2CC1)OC)OC)=O | InChI=1S/C29H34N2O3.ClH/c1-20-10-11-22-8-4-5-9-24(22)26(20)19-30-13-6-7-21(17-30)18-31-14-12-23-15-27(33-2)28(34-3)16-25(23)29(31)32;/h4-5,8-11,15-16,21H,6-7,12-14,17-19H2,1-3H3;1H
